US09303007B2
A solution of (1R,3S,5R)-tert-butyl 3-(5-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (220 mg, 0.395 mmol) (prepared in the same manner as Intermediate 51 from Intermediate 55), (1R,3S,5R)-tert-butyl 3-(4-(3-bromophenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (192 mg, 0.474 mmol) and cesium carbonate (386 mg, 1.185 mmol) in THF (4 mL) and water (4 mL) in a 100 mL pressure flask was degassed under vacuum for 5 min and then backfilled with nitrogen. Palladium (II) acetate (8.9 mg, 0.039 mmol) was added and the mixture was heated for 4 h at 120° C. The reaction mixture was cooled to RT, diluted with water and extracted with EtOAC and DCM. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified on a BIOTAGE® system (90 g silica gel cartridge, eluted with a gradient of 0 to 100% EtOAc in hexanes) to yield tert-butyl (1R,3S,5R)-3-(4-(3-(6-(2-((1S,3R,5S)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)-2-naphthyl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (142 mg, 0.203 mmol) as a yellow solid. LC-MS retention time 1.585 min; m/z 699.57 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire C18 4.6×30 mm Sum column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% methanol/90% water/0.1% TFA and Solvent B was 10% water/90% methanol/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 8.33 (d, J=1.2 Hz, 1H), 8.31 (s, 1H), 8.20-8.24 (m, 1H), 8.14-8.20 (m, 1H), 8.10-8.14 (m, 1H), 7.97-8.07 (m, 3H), 7.94 (d, J=7.9 Hz, 1H), 7.87-7.92 (m, 1H), 7.77-7.82 (m, 1H), 7.67-7.74 (m, 1H), 4.84-4.96 (m, 2H), 3.67 (br s, 2H), 2.69-2.80 (m, 2H), 2.47 (br s, 2H), 1.82-1.91 (m, 2H), 1.19-1.63 (m, 18H), 0.89-0.97 (m, 2H), 0.77 (br s, 2H).

reactant | (1R,3S,5R)-tert-butyl 3-(5-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.395 mmol, 220 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C)C | C29H36BN3O4
reactant | (1R,3S,5R)-tert-butyl 3-(4-(3-bromophenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.474 mmol, 192 mg | BrC=1C=C(C=CC1)C=1N=C(NC1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C19H22BrN3O2
reactant | cesium carbonate | 1.185 mmol, 386 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
catalyst | Palladium (II) acetate | 0.039 mmol, 8.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl (1R,3S,5R)-3-(4-(3-(6-(2-((1S,3R,5S)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)-2-naphthyl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.203 mmol, 142 mg | C(C)(C)(C)OC(=O)N1[C@H]2C[C@H]2C[C@@H]1C=1NC=C(N1)C=1C=C2C=CC(=CC2=CC1)C=1C=C(C=CC1)C=1N=C(NC1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C42H46N6O4
